US06162927
4-Methoxy-6-(2-nitrovinyl)-1,3-benzodioxole
3-Methoxypiperonal (50.0 g) is combined with 71.9 mL of nitromethane in 250 mL of acetic acid; 36 g of ammonium acetate is added, and the mixture is heated to 50° C. for 4 hrs. Solvents are removed in vacuo; the residue is taken up in water and stirred for 20 min. The solution is filtered; the filtrate is washed with water, then ether, to give 51.8 g of a yellow solid.

reactant | 3-Methoxypiperonal | 50.0 g | COC1=CC(=CC2=C1OCO2)C=O | C9H8O4
reactant | nitromethane | 71.9 mL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 36 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 250 mL | C(C)(=O)O | C2H4O2
product | 4-Methoxy-6-(2-nitrovinyl)-1,3-benzodioxole | 51.8 g | COC1=CC(=CC=2OCOC21)C=C[N+](=O)[O-] | C10H9NO5
